US07612238B2
b) N-{(R)-1-(tert-Butyl-dimethyl-silanyloxymethyl)-1-methyl-3-[4-(6,6,6-trifluoro-hexanoyl)-phenyl]propyl}-acetamide
To a solution of oxalylchloride (0.15 mmol) in CH2Cl2 is added at −78° C. first DMSO (0.2 mmol) and then a solution of N-{(R)-1-(tert-Butyl-dimethyl-silanyloxymethyl)-1-methyl-3-[4-(6,6,6-trifluoro-1-hydroxy-hexyl)-phenyl]-propyl}-acetamide (0.1 mmol) in CH2Cl2. After stirring for 1 h at −78° C., triethylamine (0.7 mmol) is added and the mixture is warmed to RT. Quenching with water is followed by extraction with AcOEt. After drying (MgSO4), the solvent is evaporated.

reactant | oxalylchloride | 0.15 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.2 mmol | CS(=O)C | C2H6OS
reactant | N-{(R)-1-(tert-Butyl-dimethyl-silanyloxymethyl)-1-methyl-3-[4-(6,6,6-trifluoro-1-hydroxy-hexyl)-phenyl]-propyl}-acetamide | 0.1 mmol | C(C)(C)(C)[SiH2]OC([C@](CCC1=CC=C(C=C1)C(CCCCC(F)(F)F)O)(C)NC(C)=O)(C)C | C25H42F3NO3Si
reactant | triethylamine | 0.7 mmol | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-{(R)-1-(tert-Butyl-dimethyl-silanyloxymethyl)-1-methyl-3-[4-(6,6,6-trifluoro-hexanoyl)-phenyl]propyl}-acetamide | C(C)(C)(C)[SiH2]OC([C@](CCC1=CC=C(C=C1)C(CCCCC(F)(F)F)=O)(C)NC(C)=O)(C)C | C25H40F3NO3Si
